US04684655
(C) 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-(2-propenyl)-5-pyrimidinecarboxylic acid, methyl ester
A slurry of sodium hydride (168 mg, 4.2 mmole, 60% in mineral oil dispersion) in 5 ml of dry tetrahydrofuran at 0° C. under argon was treated dropwise with 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester in 15 ml of dry tetrahydrofuran. After an additional 10 minutes at 0° C., allyl bromide was added and the reaction mixture was allowed to warm to room temperature overnight.

reactant | sodium hydride | 4.2 mmole, 168 mg | [H-].[Na+]
reactant | 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C21H21N3O5S
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-(2-propenyl)-5-pyrimidinecarboxylic acid, methyl ester | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])CC=C | C24H25N3O5S
